US06936602B1
5-bromo-2-fluorobenzaldehyde (20 g), t-butyl N-cyclopropyl-4-aminobutyrate (14.5 g), sodium carbonate (13.8 g), water (70 ml) and DMSO (70 ml) were heated at 80° C. for 5 days and at 110° C. for 3 days, which was poured into water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give t-butyl N-(4-bromo-2-formylphenyl)-N-cyclopropyl-4-aminobutyrate (6.4 g) as red oil.

reactant | 5-bromo-2-fluorobenzaldehyde | 20 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | t-butyl N-cyclopropyl-4-aminobutyrate | 14.5 g | C1(CC1)NCCCC(=O)OC(C)(C)C | C11H21NO2
reactant | sodium carbonate | 13.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
solvent | water | 70 ml | O | H2O
product | t-butyl N-(4-bromo-2-formylphenyl)-N-cyclopropyl-4-aminobutyrate | 6.4 g | BrC1=CC(=C(C=C1)N(CCCC(=O)OC(C)(C)C)C1CC1)C=O | C18H24BrNO3
